US09056859B2
A mixture of ethyl (5-nitropyrazin-2-yl)acetate (6.7 g, 31.7 mmol) and Pd/C (1 g, 10%) in 300 mL of EtOAc was stirred at room temperature under hydrogen baloon for 6 hours before filtration. The filtrate was concentrated to afford ethyl [5-(hydroxyamino)pyrazin-2-yl]acetate (incomplete reduction). 1H-NMR (400 MHz, CDCl3) δ ppm 8.35 (s, 1H), 8.05 (s, 1H), 4.17 (q, J=7.2 Hz, 2H), 3.75 (s, 2H), 1.24 (t, J=7.2 Hz, 3H).

reactant | ethyl (5-nitropyrazin-2-yl)acetate | 31.7 mmol, 6.7 g | [N+](=O)([O-])C=1N=CC(=NC1)CC(=O)OCC | C8H9N3O4
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | ethyl [5-(hydroxyamino)pyrazin-2-yl]acetate | ONC=1N=CC(=NC1)CC(=O)OCC | C8H11N3O3
